US07109148B2
A mixture of 3.0 g of 2-(methoxycarbonyl)methylthio-3-nitropyridine, 180 mg of platinum oxide, and 14 ml of ethanol was stirred at room temperature under an atmosphere of hydrogen gas for 3 hours. The gas in the atmosphere on the reaction system was placed with nitrogen gas, and the reaction mixture was filtered through Celite. The filtrate was concentrated. The residue was subjected to silica gel column chromatography to give 2.54 g of 3-amino-2-(methoxycarbonyl)methylthiopyridine.

reactant | 2-(methoxycarbonyl)methylthio-3-nitropyridine | 3.0 g | COC(=O)CSC1=NC=CC=C1[N+](=O)[O-] | C8H8N2O4S
catalyst | platinum oxide | 180 mg | [Pt]=O
solvent | ethanol | 14 ml | C(C)O | C2H6O
product | 3-amino-2-(methoxycarbonyl)methylthiopyridine | 2.54 g | NC=1C(=NC=CC1)SCC(=O)OC | C8H10N2O2S
